US04755511
In a manner similar to that described in Example 13, 8 -acetamido-5,6-dihydrobenzo[h]cinnolin-3[2H]-one was hydrolysed to give 8-amino-5,6-dihydrobenzo[h]cinnolin-3[2H]-one, (m.p. 290°-292°; from aqueous ethanol); ν(Nujol mull) 3300-2200, 1680,1605, 1585, 1560 and 1545 cm-1 ; δ(DMSO-d6) 2.80(4H,s,5,6-H2), 6.71(1H,s,4-H), 6.8-7.0(2H,m,7,9-H), 7.80(1H,d,10-H).

reactant | 8 -acetamido-5,6-dihydrobenzo[h]cinnolin-3[2H]-one | C(C)(=O)NC=1C=CC2=C(CCC3=CC(NN=C23)=O)C1 | C14H13N3O2
solvent | ethanol | C(C)O | C2H6O
product | 8-amino-5,6-dihydrobenzo[h]cinnolin-3[2H]-one | NC=1C=CC2=C(CCC3=CC(NN=C23)=O)C1 | C12H11N3O
